US08703978B2
3-(2-Fluorophenyl)-6-(5-phenyl-2-thienyl)-3-(4-pyrrolidinophenyl)-3H-naphtho[2,1-b]pyran
A stirred solution of 4-(5-phenyl-2-thienyl)-2-naphthol, (0.52 g, 1.73 mmol) and 1-(2-fluorophenyl)-1-(4-pyrrolidinophenyl)prop-2-yn-1-ol (0.51 g, 1.73 mmol) in toluene (50 ml) was warmed to 50° C. Acidic Al2O3 (1 g) was then added and the mixture heated to reflux for 1.5 h. After cooling, the solution was filtered, washed with hot toluene (100 ml) and the solvent removed. The resulting residue was then flash chromatographed eluting with EtOAc-hexane (1:9). The fractions were combined and the solvent removed. After precipitation from acetone-MeOH, the title compound (0.52 g, 52%) was collected as dark green crystals.

reactant | 4-(5-phenyl-2-thienyl)-2-naphthol | 1.73 mmol, 0.52 g | C1(=CC=CC=C1)C1=CC=C(S1)C1=CC(=CC2=CC=CC=C12)O | C20H14OS
reactant | 1-(2-fluorophenyl)-1-(4-pyrrolidinophenyl)prop-2-yn-1-ol | 1.73 mmol, 0.51 g | FC1=C(C=CC=C1)C(C#C)(O)C1=CC=C(C=C1)N1CCCC1 | C19H18FNO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2-Fluorophenyl)-6-(5-phenyl-2-thienyl)-3-(4-pyrrolidinophenyl)-3H-naphtho[2,1-b]pyran | FC1=C(C=CC=C1)C1(C=CC2=C(O1)C=C(C1=CC=CC=C12)C=1SC(=CC1)C1=CC=CC=C1)C1=CC=C(C=C1)N1CCCC1 | C39H30FNOS
